US05244908
(1) Synthesis of 5-[2-(isopropyloxycarbonylamino)ethylthio]-3-morpholinomethylimidazo[1,2-a]pyridine (Compound 20')
To a solution of an aqueous 37% formalin solution (210 mg, 2.59 mmoles) in acetic acid (2 ml) was added morpholine (226 μl, 2.59 mmoles) under ice-cooling and the mixture was stirred at room temperature for 45 minutes. 5-[2-(isopropyloxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine (651 mg, 2.33 mmoles) was added, followed by stirring at 60° C. for 2 hours. After the solvent was distilled off, the residue was diluted with chloroform, washed in turn with aqueous 1N NaOH and saturated saline, and then dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography [eluent: ethanol/ethyl acetate=1:10] to obtain 442 mg of the desired product (50.1%, light brown solid).

reactant | formalin | 2.59 mmoles, 210 mg | C=O | CH2O
reactant | morpholine | 2.59 mmoles, 226 μl | N1CCOCC1 | C4H9NO
reactant | 5-[2-(isopropyloxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine | 2.33 mmoles, 651 mg | C(C)(C)OC(=O)NCCSC1=CC=CC=2N1C=CN2 | C13H17N3O2S
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 5-[2-(isopropyloxycarbonylamino)ethylthio]-3-morpholinomethylimidazo[1,2-a]pyridine | 442 mg, 50.1% | C(C)(C)OC(=O)NCCSC1=CC=CC=2N1C(=CN2)CN2CCOCC2 | C18H26N4O3S
